US07037932B2
b) Methyl 7-fluoro-4-methoxy-1-benzothiophene-2-carboxylate
Methyl thioglycolate (28.8 mL, 320 mmol) was added under nitrogen to a solution of triethylamine (86.6 mL) in dry N,N-dimethylformamide (220 mL) at 80° C. Stirred at 100° C. for 15 mins. A solution of 2,3-difluoro-6-methoxybenzaldehyde (55.1 g, 320 mmol) in N,N-dimethylformamide (80 mL) was added and the mixture heated at 130° C. for 3 h. Allowed to cool then poured onto ice-water (2 L). The resulting yellow solid was filtered, washing with water (2×200 mL). Dried under vacuum over phosphorus pentoxide at room temperature overnight to give the title compound (67.2 g, 87%); δH (300 MHz, CDCl3) 8.20 (1H, d, ArH), 7.06 (1H, t, ArH), 6.68 (1H, m, ArH) and 3.99 (6H, s, OCH3 and CO2CH3).

reactant | Methyl thioglycolate | 320 mmol, 28.8 mL | C(CS)(=O)OC | C3H6O2S
reactant | triethylamine | 86.6 mL | C(C)N(CC)CC | C6H15N
reactant | 2,3-difluoro-6-methoxybenzaldehyde | 320 mmol, 55.1 g | FC1=C(C=O)C(=CC=C1F)OC | C8H6F2O2
solvent | N,N-dimethylformamide | 220 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 80 mL | CN(C=O)C | C3H7NO
product | Methyl 7-fluoro-4-methoxy-1-benzothiophene-2-carboxylate | 67.2 g, 87% | FC1=CC=C(C=2C=C(SC21)C(=O)OC)OC | C11H9FO3S
